US06867310B1
Synthesis of 2-pentyl-2-vinyl-5-(N-methyl-anilinomethylene)cyclopentanone
An oven dried Schlenk tube equipped with a rubber septum was purged with argon. The septum was removed, and the tube was charged with tris(dibenzylideneacetone) dipalladium (0) (11.4 mg, 0.013 mmol, 5 mol % Pd) and (+)-2-(dicyclohexylphosphino)2′-(dimethylamino)-1,1′-binaphthyl (13.6 mg, 0.028 mmol 6 mol %). The tube was capped with the septum, purged with argon, and toluene (2 mL) and triethylamine (5 mg, 0.05 mmol) were added through the septum. The mixture was stirred at room temperature for 3 min, then vinyl bromide (1.0 mL 1.0 mmol) was added through septum. The septum was removed and 2-pentyl-5-(N-methyl-anilinomethylene)cyclopentanone (136 mg, 0.5 mmol) and sodium t-butoxide (96 mg, 1.0 mmol) were added. The tube was capped with the septum and purged with argon. Additional toluene (4 mL) was added and the mixture was stirred at room temperature for 18 h. The mixture was quenched with saturated aqueous ammonium chloride (5 mL), diluted with ether (20 mL) and poured into a separatory funnel. The layers were separated and the aqueous layer was extracted with ether (20 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel to afford 134 mg (90%) of the title compound. The ee was determined to be 80% by chiral HPLC analysis.

reactant | triethylamine | 0.05 mmol, 5 mg | C(C)N(CC)CC | C6H15N
reactant | vinyl bromide | 1.0 mmol, 1.0 mL | C(=C)Br | C2H3Br
reactant | 2-pentyl-5-(N-methyl-anilinomethylene)cyclopentanone | 0.5 mmol, 136 mg | C(CCCC)C1C(C(CC1)=CN(C1=CC=CC=C1)C)=O | C18H25NO
reactant | sodium t-butoxide | 1.0 mmol, 96 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.013 mmol, 11.4 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | (+)-2-(dicyclohexylphosphino)2′-(dimethylamino)-1,1′-binaphthyl | 0.028 mmol, 13.6 mg | C1(CCCCC1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)N(C)C)C1CCCCC1 | C34H40NP
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-pentyl-2-vinyl-5-(N-methyl-anilinomethylene)cyclopentanone | 134 mg, 90% | C(CCCC)C1(C(C(CC1)=CN(C1=CC=CC=C1)C)=O)C=C | C20H27NO
